US05177088
N-(1H-Indol-3-yl)-N-(4-pyridinyl)propanamide
3-(4-Pyridinylamino)-1H-indole (3 g) was added to a solution prepared from propionic anhydride (3 g), 10 mL dichloromethane and 10 mL toluene. The resultant solution was stirred one hour at ambient temperature and thereafter stirred with water and basified with sodium carbonate. The product was extracted into dichloromethane. The dried (anhydrous magnesium sulfate) organic layer was filtered and concentrated. The residue was eluted through silica with 50% ethyl acetate in dichloromethane via flash column chromatography to yield 3.5 g of a light tan solid, m.p. 166°-168°. A 1.5 g portion was recrystallized from acetonitrile to yield 1.3 g of light tan crystals, m.p. 168°-170°.

reactant | 3-(4-Pyridinylamino)-1H-indole | 3 g | N1=CC=C(C=C1)NC1=CNC2=CC=CC=C12 | C13H11N3
reactant | propionic anhydride | 3 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1H-Indol-3-yl)-N-(4-pyridinyl)propanamide | 3.5 g | N1C=C(C2=CC=CC=C12)N(C(CC)=O)C1=CC=NC=C1 | C16H15N3O
